US07582638B2
Charge a 3 gallon autoclave with (1-methyl-cyclopropyl)-[4-(4-nitro-isoquinolin-1-yloxy)-piperidin-1-yl]-methanone (368.0 g, 1.04 moles), THF (4.42 L, 54.32 moles), and 5% Pd on carbon (dry, 40.50 g, 19.03 moles). Seal the autoclave and introduce hydrogen to 50 psi. Stir the contents at 1000 rpm at room temperature under 50 psi of hydrogen for 4.5 hours. Filter and rinse with additional THF (2.0 L, 24.58 moles). Treat the filtrate with carbon (20-40 mesh, 42.00 g) and heat to 40° C. for 1 hour. Add additional carbon (60 mesh, 47.00 g) and continue heating for 1 hour. Filter carbon through a micro fiber paper and a bed of Hyflo Super Cel® and rinse with a minimal amount of THF. Remove solvent to obtain [4-(4-amino-isoquinolin-1-yloxy)-piperidin-1-yl]-(1-methyl-cyclopropyl)-methanone, 348 g (103%) as a dark orange-red oil/foam. 1H NMR (500 MHz, CDCl3): δ 0.59 (t, J=6.0 Hz, 2H), 0.96 (t, J=6.0 Hz, 2H), 1.34 (s, 3H), 1.88-1.94 (m, 2H), 2.06-2.10 (m, 2H), 3.61-3.70 (m, 2H), 3.93-4.00 (m, 2H), 5.48-5.50 (m, 1H), 7.52 (s, 1H), 7.58 (t, J=7.0 Hz, 1H), 7.73 (t, J=7.0 Hz, 1H), 7.81 (d, J=7.0 Hz, 1H), 8.27 (d, J=8.5 Hz, 1H).

reactant | (1-methyl-cyclopropyl)-[4-(4-nitro-isoquinolin-1-yloxy)-piperidin-1-yl]-methanone | 1.04 moles, 368.0 g | CC1(CC1)C(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)[N+](=O)[O-] | C19H21N3O4
reactant | THF | 54.32 moles, 4.42 L | C1CCOC1 | C4H8O
reactant | hydrogen | [H][H] | H2
reactant | THF | 24.58 moles, 2.0 L | C1CCOC1 | C4H8O
catalyst | Pd on carbon | 19.03 moles, 40.50 g | [Pd] | Pd
product | [4-(4-amino-isoquinolin-1-yloxy)-piperidin-1-yl]-(1-methyl-cyclopropyl)-methanone | NC1=CN=C(C2=CC=CC=C12)OC1CCN(CC1)C(=O)C1(CC1)C | C19H23N3O2
